US04337260
A mixture of 3.0 g of 3-chloro-5-(3-bromopropylidene)-10,11-dihydro-5H-dibenz[a,d]cycloheptene and 3.0 g of 1,2,3,5,6,7,8,8a-octahydro-2-oxoimidazo[1,2-a]pyridine-3-spiro-4'-piperidine in 20 ml of ethanol is boiled under reflux with stirring for 5 hours. The ethanol is then distilled off under reduced pressure, and the residue is dissolved in 30 ml of toluene. The toluene solution is washed with water and extracted with 30 ml of 5% hydrochloric acid. The aqueous layer is treated with activated charcoal and made alkaline. The separated oil is allowed to stand. The crystals thus obtained is dissolved in ethanol, and ethanolic hydrochloric acid is added to give 2.8 g of 1'-[3-(3-chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)propyl]-1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]-pyridine-3-spiro-4'-piperidine dihydrochloride as white crystals, m.p. 262° C.

reactant | 3-chloro-5-(3-bromopropylidene)-10,11-dihydro-5H-dibenz[a,d]cycloheptene | 3.0 g | ClC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=CCCBr)C1 | C18H16BrCl
reactant | 1,2,3,5,6,7,8,8a-octahydro-2-oxoimidazo[1,2-a]pyridine-3-spiro-4'-piperidine | 3.0 g | O=C1NC2N(CCCC2)C12CCNCC2 | C11H19N3O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1'-[3-(3-chloro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-ylidene)propyl]-1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]-pyridine-3-spiro-4'-piperidine dihydrochloride | 2.8 g | Cl.Cl.ClC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=CCCN3CCC2(CC3)C(NC3N2CCCC3)=O)C1 | InChI=1S/C29H34ClN3O.2ClH/c30-23-13-12-22-11-10-21-6-1-2-7-24(21)25(26(22)20-23)8-5-16-32-18-14-29(15-19-32)28(34)31-27-9-3-4-17-33(27)29;;/h1-2,6-8,12-13,20,27H,3-5,9-11,14-19H2,(H,31,34);2*1H
